US05739132
In 70 ml of a 25% hydrogen bromide-acetic acid solution was suspended 8.02 g of 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane, and 2.96 g of dimethylsulfoxide sulfoxide was added thereto under ice cooling. The mixture was stirred at room temperature for 1.5 hours. Then, 140 ml of diethyl ether was added to the reaction mixture, and crystals precipitated were collected by filtration and recrystallized from methanol to obtain 8.55 g of 2-amino-5-[pyridazin-3(2H)-on-6-yl]indane hydrobromide

reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 8.02 g | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
solvent | diethyl ether | 140 ml | C(C)OCC | C4H10O
product | 2-amino-5-[pyridazin-3(2H)-on-6-yl]indane hydrobromide | 8.55 g | Br.NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | InChI=1S/C13H13N3O.BrH/c14-11-6-8-1-2-9(5-10(8)7-11)12-3-4-13(17)16-15-12;/h1-5,11H,6-7,14H2,(H,16,17);1H
